US07625922B2
1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)-3-fluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (CJS 3404)
Method H3 was used with 4-(4-amino-2-fluorophenoxy)-3-nitropyridin-2-amine (0.25 g, 0.946 mmol) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (0.21 g, 0.946 mmol) to afford the title compound (0.19 g, 42%). 1H NMR (250 MHz, 6, ppm, DMSO-d6): 5.98 (dd, 1H, Ja=5.7 Hz, Jb=1.0 Hz), 7.21 (s, 2H), 7.26 (dd, 1H, Ja=9.1 Hz, Jb=2.3 Hz), 7.34 (t, 1H, J=8.8 Hz), 7.60-7.73 (m, 3H), 8.01 (d, 1H, J=5.7 Hz), 8.10 (d, 1H, J=2.1 Hz), 9.19 (s, 1H), 9.27 (s, 1H). m/z 486.1 [(M+H)+ calcd. for C19H12ClF4N5O4 485.1].

reactant | 4-(4-amino-2-fluorophenoxy)-3-nitropyridin-2-amine | 0.946 mmol, 0.25 g | NC1=CC(=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1)F | C11H9FN4O3
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 0.946 mmol, 0.21 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)-3-fluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 0.19 g, 42% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=C(C=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)F | C19H12ClF4N5O4
